US05639770
0.19 ml of bromine was dropwise added to a solution of 0.88 g of 2-ethoxycarbonyl-3-acetyloxy-6-acetylpyridine dissolved in 8.8 ml of acetic acid. The mixture was stirred at 75° C. for 5 minutes to obtain 0.77 g of 2-ethoxycarbonyl-3-hydroxy-6-(2-bromoacetyl)pyridine hydrobromide.

reactant | bromine | 0.19 ml | BrBr | Br2
reactant | 2-ethoxycarbonyl-3-acetyloxy-6-acetylpyridine | 0.88 g | C(C)OC(=O)C1=NC(=CC=C1OC(C)=O)C(C)=O | C12H13NO5
solvent | acetic acid | 8.8 ml | C(C)(=O)O | C2H4O2
product | 2-ethoxycarbonyl-3-hydroxy-6-(2-bromoacetyl)pyridine hydrobromide | 0.77 g | Br.C(C)OC(=O)C1=NC(=CC=C1O)C(CBr)=O | InChI=1S/C10H10BrNO4.BrH/c1-2-16-10(15)9-7(13)4-3-6(12-9)8(14)5-11;/h3-4,13H,2,5H2,1H3;1H
